US06812227B2
According to the procedure of Example 5, 0.350 g (1.032 mmol) of 2-(4-but-2-ynyloxy-benzenesulfonylamino)-3-methyl-butyric acid methyl ester and 0.25 mL (3.097 mmol) of iodoethane provided 0.334 g of 2-[(4-but-2-ynyloxy-benzenesulfonyl)-ethyl-amino]-3-methyl-butyric acid methyl ester as a white solid. Electrospray Mass Spec 368.4 (M+H)+

reactant | 2-(4-but-2-ynyloxy-benzenesulfonylamino)-3-methyl-butyric acid methyl ester | 1.032 mmol, 0.350 g | COC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C16H21NO5S
reactant | iodoethane | 3.097 mmol, 0.25 mL | ICC | C2H5I
product | 2-[(4-but-2-ynyloxy-benzenesulfonyl)-ethyl-amino]-3-methyl-butyric acid methyl ester | 0.334 g | COC(C(C(C)C)N(CC)S(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C18H25NO5S
